US04462943
To a cold (0°) solution of N-[1(S)-ethoxycarbonyl-3-phenylpropyl]-L-alanine (720 mg., 2.57 mmole) and (S)-1,4-dithia-7-azaspiro[4.4]nonane-8-carboxylic acid, diphenylmethyl ester, p-toluenesulfonate (1.06 g., 1.1 eq.) in 8 ml. of dry dimethylformamide under argon is added dropwise a solution of 0.61 ml. (1.1 eq.) of diphenylphosphoryl azide in 1 ml. of dimethylformamide. The reaction mixture is worked up according to the procedure of Example 95(f) to yield (S,S,S)-7-[2-[(1-ethoxycarbonyl-3-phenylpropyl)amino]-1-oxopropyl]-1,4-dithia-7-azaspiro[4.4]nonane-8-carboxylic acid, diphenylmethyl ester.

reactant | N-[1(S)-ethoxycarbonyl-3-phenylpropyl]-L-alanine | 2.57 mmole, 720 mg | C(C)OC(=O)[C@H](CCC1=CC=CC=C1)N[C@@H](C)C(=O)O | C15H21NO4
reactant | (S)-1,4-dithia-7-azaspiro[4.4]nonane-8-carboxylic acid, diphenylmethyl ester | S1CCSC12CN[C@@H](C2)C(=O)OC(C2=CC=CC=C2)C2=CC=CC=C2 | C20H21NO2S2
reactant | p-toluenesulfonate | 1.06 g, 1.1 eq. | CC=1C=CC(=CC1)S(=O)(=O)O | C7H8O3S
reactant | diphenylphosphoryl azide | 1.1 eq. | C1(=CC=CC=C1)P(=O)(C1=CC=CC=C1)N=[N+]=[N-] | C12H10N3OP
solvent | dimethylformamide | CN(C=O)C | C3H7NO
product | (S,S,S)-7-[2-[(1-ethoxycarbonyl-3-phenylpropyl)amino]-1-oxopropyl]-1,4-dithia-7-azaspiro[4.4]nonane-8-carboxylic acid, diphenylmethyl ester | C(C)OC(=O)[C@H](CCC1=CC=CC=C1)N[C@H](C(=O)N1CC2(SCCS2)C[C@H]1C(=O)OC(C1=CC=CC=C1)C1=CC=CC=C1)C | C35H40N2O5S2
